US09193692B2
A. 2-Chloro-N-(3,5-dibromopyrazin-2-yl)acetamide
A solution of 2-amino-3,5-dibromopyrazine (3.0 g, 11.9 mmol) and chloroacetic anhydride (4.2 g, 8.7 mmol) were reacted in acetonitrile (10 mL) at 70° C. for 16 h. The solution was condensed and diluted with ethyl acetate. The organics were washed with a 1:1 solution of sodium bicarbonate (saturated) and potassium carbonate (1.75 M in water) (4×). The organics were combined, dried over magnesium sulfate, filtered and solvent removed under reduced pressure. The resulting solid was triturated with 10% ethyl acetate in hexanes to afford the title compound (3.12 g, 9.3 mmol, 72% yield). MS (ESI) m/z 328.3 [M−1]+, 330.4 [M+1]+, 332.3 [M+3]+.

reactant | 2-amino-3,5-dibromopyrazine | 11.9 mmol, 3.0 g | NC1=NC=C(N=C1Br)Br | C4H3Br2N3
reactant | chloroacetic anhydride | 8.7 mmol, 4.2 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-N-(3,5-dibromopyrazin-2-yl)acetamide | 9.3 mmol, 3.12 g, 72% yield | ClCC(=O)NC1=NC=C(N=C1Br)Br | C6H4Br2ClN3O
